*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.3
* < ILD_dielectric_const = 4.5
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_0 1 2 3 4 REF
C_C1 1 REF 0.708079540453pf
C_C2 1 2 16.570978981228pf
C_C3 1 3 0.0281180210921pf
C_C4 1 4 0.2306306130933pf
C_C5 2 REF 0.9266404396559pf
C_C6 2 3 0.1184921421754pf
C_C7 3 REF 0.519314883961pf
C_C8 3 4 5.7255343364908pf
C_C9 4 REF 0.5219756706915pf
L_L1 3 5 1.3019694095376nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_1 1 2 3 4 REF
C_C1 1 REF 0.6314977293258pf
C_C2 1 2 16.959265246768pf
C_C3 1 3 0.0262338849002pf
C_C4 1 4 0.2343279892098pf
C_C5 2 REF 0.8549283778244pf
C_C6 2 3 0.118984966286pf
C_C7 3 REF 0.5207435645887pf
C_C8 3 4 4.2379078199037pf
C_C9 4 REF 0.5212137827989pf
L_L1 3 5 1.3031751244195nh
R_RL1 5 4 1.7615976503e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_2 1 2 3 4 REF
C_C1 1 REF 0.563051067493pf
C_C2 1 2 17.39202819131pf
C_C3 1 3 0.024312814956pf
C_C4 1 4 0.2385736422243pf
C_C5 2 REF 0.7920336474004pf
C_C6 2 3 0.1196736767577pf
C_C7 3 REF 0.522010227578pf
C_C8 3 4 3.1980106134044pf
C_C9 4 REF 0.5207867681146pf
L_L1 3 5 1.3041798230909nh
R_RL1 5 4 1.0991970612e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_3 1 2 3 4 REF
C_C1 1 REF 0.4905753060889pf
C_C2 1 2 17.987964358165pf
C_C3 1 3 0.0218645412644pf
C_C4 1 4 0.2446363793279pf
C_C5 2 REF 0.7274765634854pf
C_C6 2 3 0.1207986906537pf
C_C7 3 REF 0.5233734638347pf
C_C8 3 4 2.3021025265221pf
C_C9 4 REF 0.5205655758034pf
L_L1 3 5 1.3051971985027nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_4 1 2 3 4 REF
C_C1 1 REF 0.4216808159467pf
C_C2 1 2 18.760478476837pf
C_C3 1 3 0.0189016792157pf
C_C4 1 4 0.2527949493685pf
C_C5 2 REF 0.6693002362626pf
C_C6 2 3 0.1224737382518pf
C_C7 3 REF 0.5247061170117pf
C_C8 3 4 1.5830838764563pf
C_C9 4 REF 0.5205533767952pf
L_L1 3 5 1.3062145749311nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_5 1 2 3 4 REF
C_C1 1 REF 0.369458706506pf
C_C2 1 2 19.601547921501pf
C_C3 1 3 0.0158617249106pf
C_C4 1 4 0.261983743707pf
C_C5 2 REF 0.6292702832163pf
C_C6 2 3 0.124518736456pf
C_C7 3 REF 0.5257440483254pf
C_C8 3 4 1.1065016692939pf
C_C9 4 REF 0.5206855188783pf
L_L1 3 5 1.3070368328041nh
R_RL1 5 4 -1.249573393e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_6 1 2 3 4 REF
C_C1 1 REF 0.3303628680153pf
C_C2 1 2 20.516048747454pf
C_C3 1 3 0.0126959290439pf
C_C4 1 4 0.2722257571778pf
C_C5 2 REF 0.6038920741267pf
C_C6 2 3 0.1269421588515pf
C_C7 3 REF 0.5265285599914pf
C_C8 3 4 0.7794682596292pf
C_C9 4 REF 0.5208757298676pf
L_L1 3 5 1.3077125681563nh
R_RL1 5 4 -1.896338949e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_7 1 2 3 4 REF
C_C1 1 REF 0.2972212275144pf
C_C2 1 2 21.695955638134pf
C_C3 1 4 0.285676893008pf
C_C4 2 REF 0.5888957530135pf
C_C5 2 3 0.1303031667757pf
C_C6 3 REF 0.5271760939072pf
C_C7 3 4 0.517951544514pf
C_C8 4 REF 0.5211143755335pf
L_L1 3 5 1.3083501388247nh
R_RL1 5 4 -2.515131382e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_8 1 2 3 4 REF
C_C1 1 REF 0.2705061454457pf
C_C2 1 2 23.197475754127pf
C_C3 1 4 0.3029660092242pf
C_C4 2 REF 0.5855838428773pf
C_C5 2 3 0.1348403577609pf
C_C6 3 REF 0.5276452546154pf
C_C7 3 4 0.3160370199309pf
C_C8 4 REF 0.5213732395171pf
L_L1 3 5 1.3089520184347nh
R_RL1 5 4 -3.072875143e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_9 1 2 3 4 REF
C_C1 1 REF 0.2493691086217pf
C_C2 1 2 25.150399017479pf
C_C3 1 4 0.3255090616666pf
C_C4 2 REF 0.5949382336472pf
C_C5 2 3 0.1410472819756pf
C_C6 3 REF 0.5279090832214pf
C_C7 3 4 0.1666770574321pf
C_C8 4 REF 0.5216386814048pf
L_L1 1 5 90.854552666767nh
R_RL1 5 2 9.2779229748517
L_L2 3 6 1.3094751121732nh
R_RL2 6 4 -3.487922845e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_10 1 2 3 4 REF
C_C1 1 REF 0.2311412069235pf
C_C2 1 2 27.699636653196pf
C_C3 1 4 0.3548069588084pf
C_C4 2 REF 0.6161553453984pf
C_C5 2 3 0.1494669827313pf
C_C6 3 REF 0.5279765526729pf
C_C7 3 4 0.0580523906821pf
C_C8 4 REF 0.5219106619106pf
L_L1 1 5 56.681993351685nh
R_RL1 5 2 5.8584827298459
L_L2 3 6 1.3099089055454nh
R_RL2 6 4 -3.711858153e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_11 1 2 3 4 REF
C_C1 1 REF 0.2118312237923pf
C_C2 1 2 31.155495318774pf
C_C3 1 4 0.394148660486pf
C_C4 2 REF 0.6494125133617pf
C_C5 2 3 0.1612307957738pf
C_C6 3 REF 0.5278560391733pf
C_C7 4 REF 0.5222076983071pf
L_L1 1 5 35.105127713289nh
R_RL1 5 2 3.1021040431028
L_L2 3 6 1.310115368134nh
R_RL2 6 4 -3.678382609e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_12 1 2 3 4 REF
C_C1 1 REF 0.1860782889501pf
C_C2 1 2 35.949442124755pf
C_C3 1 4 0.448097206198pf
C_C4 2 REF 0.6951339393123pf
C_C5 2 3 0.1778940885146pf
C_C6 3 REF 0.527567920793pf
C_C7 4 REF 0.522561027531pf
L_L1 1 5 21.293538449601nh
R_RL1 5 2 1.3614612825004
L_L2 3 6 1.3098843561455nh
R_RL2 6 4 -3.356051184e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_13 1 2 3 4 REF
C_C1 1 REF 0.1452840420301pf
C_C2 1 2 43.036086315339pf
C_C3 1 4 0.5269246302892pf
C_C4 2 REF 0.7579221497998pf
C_C5 2 3 0.2028681905332pf
C_C6 3 REF 0.527108076052pf
C_C7 4 REF 0.5230345373118pf
L_L1 1 5 12.499006097698nh
R_RL1 5 2 0.5317541736249
L_L2 3 6 1.3094516369186nh
R_RL2 6 4 -2.725003014e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_14 1 2 3 4 REF
C_C1 1 REF 0.075774158951pf
C_C2 1 2 54.133451291895pf
C_C3 1 4 0.6492430730377pf
C_C4 2 REF 0.8481613345904pf
C_C5 2 3 0.2422505686187pf
C_C6 3 REF 0.5264543837451pf
C_C7 4 REF 0.5237473931441pf
L_L1 1 5 6.9930585036526nh
R_RL1 5 2 0.4352462794741
L_L2 3 6 1.3087543346989nh
R_RL2 6 4 -1.779465128e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_15 1 2 3 4 REF
C_C1 1 2 73.718705746478pf
C_C2 1 4 0.8638064730217pf
C_C3 2 REF 0.9964644247108pf
C_C4 2 3 0.3119110817583pf
C_C5 3 REF 0.5255024386507pf
C_C6 4 REF 0.5250228080779pf
R_R1 1 2 384.77750105944
L_L1 1 5 3.7434206672028nh
R_RL1 5 2 -0.146064575825
L_L2 3 6 1.3074820246305nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_16 1 2 3 4 REF
C_C1 1 2 118.1017799218pf
C_C2 1 4 1.3485815481218pf
C_C3 2 REF 1.3183113411973pf
C_C4 2 3 0.4696870563061pf
C_C5 3 REF 0.523816700171pf
C_C6 4 REF 0.528077290997pf
R_R1 1 2 116.58253705569
L_L1 1 5 1.5911961530093nh
R_RL1 5 2 -0.159835392185
L_L2 1 6 68.718079455932nh
R_RL2 6 3 -0.212348970298
L_L3 1 7 67.970044114504nh
R_RL3 7 4 -0.212837643793
L_L4 2 8 68.811642768285nh
R_RL4 8 3 0.0184180975125
L_L5 2 9 68.066490684885nh
R_RL5 9 4 0.0180482177068
L_L6 3 10 1.3046623311733nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L2 0.0716107121195
Kn_K2 L_L1 L_L3 0.0718650627622
Kn_K3 L_L1 L_L4 -0.080503560045
Kn_K4 L_L1 L_L5 -0.081081537502
Kn_K5 L_L2 L_L3 0.9904700207278
Kn_K6 L_L2 L_L4 0.9884303940319
Kn_K7 L_L2 L_L5 0.9788190828534
Kn_K8 L_L2 L_L6 -0.108395293565
Kn_K9 L_L3 L_L4 0.9788682179527
Kn_K10 L_L3 L_L5 0.9883034188858
Kn_K11 L_L3 L_L6 0.0295546912892
Kn_K12 L_L4 L_L5 0.9904831157744
Kn_K13 L_L4 L_L6 -0.108169425325
Kn_K14 L_L5 L_L6 0.0296867262573
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_17 1 2 3 4 REF
C_C1 1 2 269.03975756587pf
C_C2 1 4 2.9957415110578pf
C_C3 2 REF 2.3927504525942pf
C_C4 2 3 1.0057025224002pf
C_C5 3 REF 0.5193416858699pf
C_C6 4 REF 0.5391989243786pf
R_R1 1 2 25.982598808824
L_L1 1 5 58.815601803849nh
R_RL1 5 REF -1.269744935777
L_L2 1 6 0.475587372395nh
R_RL2 6 2 -0.079422117691
L_L3 1 7 23.788600319905nh
R_RL3 7 3 -0.075152025632
L_L4 1 8 23.090670795804nh
R_RL4 8 4 -0.076251618623
L_L5 2 9 58.453834455237nh
R_RL5 9 REF -1.435756261702
L_L6 2 10 23.868974355937nh
R_RL6 10 3 0.003982831422
L_L7 2 11 23.174971451625nh
R_RL7 11 4 0.0038303703276
L_L8 3 12 82.035936935642nh
R_RL8 12 REF -1.405363463901
L_L9 3 13 1.2952199546257nh
R_RL9 13 4 1.8173305764e-5
L_L10 4 14 81.328518717802nh
R_RL10 14 REF -1.407136367395
Kn_K1 L_L1 L_L2 0.079162235063
Kn_K2 L_L1 L_L5 0.9959492291074
Kn_K3 L_L1 L_L8 0.8426380802377
Kn_K4 L_L1 L_L10 0.8462262988115
Kn_K5 L_L2 L_L3 0.058749204906
Kn_K6 L_L2 L_L4 0.0590380054519
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.082505445641
Kn_K9 L_L2 L_L7 -0.084323072818
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9724789378173
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9900221470183
Kn_K15 L_L3 L_L7 0.9622925594648
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.17953687703
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9625066939368
Kn_K21 L_L4 L_L7 0.9897221493866
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0546091633586
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8420491381008
Kn_K26 L_L5 L_L10 0.8456061140673
Kn_K27 L_L6 L_L7 0.9725737071106
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.178881242699
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0548681005206
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.0971401253934
Kn_K35 L_L8 L_L10 0.9920808942018
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_18 1 2 3 4 REF
C_C1 1 2 3359.4872713621pf
C_C2 1 4 36.67605956274pf
C_C3 2 REF 24.196633128477pf
C_C4 2 3 12.031299054987pf
C_C5 3 REF 0.4407172151172pf
C_C6 4 REF 0.7760099283797pf
R_R1 1 REF -42.43703608087
R_R2 1 2 0.334144881463
R_R3 1 3 -106.9925498981
R_R4 1 4 29.641075504566
R_R5 2 REF 42.407894891881
R_R6 2 3 107.02170278266
R_R7 2 4 -29.649549417
L_L1 1 5 3.0257982965032nh
R_RL1 5 REF -7.57305101e-3
L_L2 1 6 0.0245416025917nh
R_RL2 6 2 -0.022094143442
L_L3 1 7 2.0949567681361nh
R_RL3 7 3 -0.010737505268
L_L4 1 8 1.5175703666919nh
R_RL4 8 4 -0.015288374122
L_L5 2 9 3.0077098403078nh
R_RL5 9 REF -0.033817690044
L_L6 2 10 2.1000367317185nh
R_RL6 10 3 -1.920576962e-3
L_L7 2 11 1.5275438090165nh
R_RL7 11 4 -5.768365888e-4
L_L8 3 12 5.093605099946nh
R_RL8 12 REF -0.021073648684
L_L9 3 13 1.1218340027488nh
R_RL9 13 4 -3.668163287e-4
L_L10 4 14 4.5100130902675nh
R_RL10 14 REF -0.026229198428
Kn_K1 L_L1 L_L2 0.0782194016195
Kn_K2 L_L1 L_L5 0.9959369246631
Kn_K3 L_L1 L_L8 0.7672811743889
Kn_K4 L_L1 L_L10 0.8145742788441
Kn_K5 L_L2 L_L3 0.0429151292416
Kn_K6 L_L2 L_L4 0.0377440793459
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.065239874415
Kn_K9 L_L2 L_L7 -0.089131281445
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.014745922638
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.6984386691812
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9941505166169
Kn_K16 L_L3 L_L7 0.6907152813985
Kn_K17 L_L3 L_L8 0.9221190562383
Kn_K18 L_L3 L_L9 -0.554201741927
Kn_K19 L_L3 L_L10 0.9789559425095
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.6935131496052
Kn_K22 L_L4 L_L7 0.9919459829651
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2086351001459
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7666253226746
Kn_K27 L_L5 L_L10 0.8132104369933
Kn_K28 L_L6 L_L7 0.699514724452
Kn_K29 L_L6 L_L8 0.9174611505422
Kn_K30 L_L6 L_L9 -0.551936952942
Kn_K31 L_L6 L_L10 0.9732120256006
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.209821962388
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.356718761666
Kn_K36 L_L8 L_L10 0.8848215374487
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_19 1 2 3 4 REF
C_C1 1 REF 26.733741913906pf
C_C2 1 3 13.314093498965pf
C_C3 2 4 40.568460966253pf
C_C4 3 REF 0.618018624931pf
C_C5 4 REF 0.2306230899382pf
R_R1 1 REF 49.822895791554
R_R2 1 2 -0.404591488445
R_R3 1 3 135.04081873367
R_R4 1 4 -35.55671728929
R_R5 2 REF -49.95678374015
R_R6 2 3 -135.0775748616
R_R7 2 4 35.567489210423
L_L1 1 5 2.2718749632214nh
R_RL1 5 REF -6.061226635e-3
L_L2 1 6 0.0163515992619nh
R_RL2 6 2 0.3855990099797
L_L3 1 7 1.6922328084612nh
R_RL3 7 3 0.1484871641739
L_L4 1 8 1.148863154135nh
R_RL4 8 4 0.2505818256513
L_L5 2 9 2.2526429184558nh
R_RL5 9 REF 0.4038554311159
L_L6 2 10 1.6983189579376nh
R_RL6 10 3 0.0554273162307
L_L7 2 11 1.1597530897275nh
R_RL7 11 4 0.0144411310144
L_L8 3 12 3.9497609701353nh
R_RL8 12 REF 0.1571433593779
L_L9 3 13 1.0660544691492nh
R_RL9 13 4 0.0132952474366
L_L10 4 14 3.4112068892553nh
R_RL10 14 REF 0.2637507452163
Kn_K1 L_L1 L_L2 0.0923098605785
Kn_K2 L_L1 L_L5 0.9963950032431
Kn_K3 L_L1 L_L8 0.7560201311691
Kn_K4 L_L1 L_L10 0.8143783603661
Kn_K5 L_L2 L_L3 0.0308558712957
Kn_K6 L_L2 L_L4 0.0199241906565
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.067322392021
Kn_K9 L_L2 L_L7 -0.098909655865
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.01819214261
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.6365233033794
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9951789076524
Kn_K16 L_L3 L_L7 0.6298639894004
Kn_K17 L_L3 L_L8 0.8759826759649
Kn_K18 L_L3 L_L9 -0.599129574567
Kn_K19 L_L3 L_L10 0.9436009782679
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.6334267273432
Kn_K22 L_L4 L_L7 0.9929281895895
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2361489610539
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.754996592166
Kn_K27 L_L5 L_L10 0.8124141983543
Kn_K28 L_L6 L_L7 0.6384396810254
Kn_K29 L_L6 L_L8 0.8695239321255
Kn_K30 L_L6 L_L9 -0.596270014963
Kn_K31 L_L6 L_L10 0.935651360016
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.2371977781222
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.3909885161125
Kn_K36 L_L8 L_L10 0.8574727483237
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_20 1 2 3 4 REF
C_C1 1 2 234.66033017798pf
C_C2 1 4 2.6181891933229pf
C_C3 2 REF 2.1548729456991pf
C_C4 2 3 0.8822689916081pf
C_C5 3 REF 0.5177391868747pf
C_C6 4 REF 0.5338382556786pf
R_R1 1 2 -24.79772017409
L_L1 1 5 40.338239950818nh
R_RL1 5 REF -2.183641907698
L_L2 1 6 0.1760184436663nh
R_RL2 6 2 0.0262449143041
L_L3 1 7 15.767833478999nh
R_RL3 7 3 -6.445728446e-4
L_L4 1 8 15.064748625951nh
R_RL4 8 4 1.0e-5
L_L5 2 9 39.942886587065nh
R_RL5 9 REF -2.194277059567
L_L6 2 10 15.88770886541nh
R_RL6 10 3 0.007741699436
L_L7 2 11 15.192649502231nh
R_RL7 11 4 0.007010891569
L_L8 3 12 55.796110525068nh
R_RL8 12 REF -2.267119142166
L_L9 3 13 1.2858944214987nh
R_RL9 13 4 5.2964552554e-5
L_L10 4 14 55.081708655203nh
R_RL10 14 REF -2.268031222731
Kn_K1 L_L1 L_L2 0.1072139387538
Kn_K2 L_L1 L_L5 0.9978195737024
Kn_K3 L_L1 L_L8 0.8470025459134
Kn_K4 L_L1 L_L10 0.8523575574555
Kn_K5 L_L2 L_L3 0.016850040999
Kn_K6 L_L2 L_L4 0.0147745286497
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.08847003293
Kn_K9 L_L2 L_L7 -0.092924977671
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.958543549272
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9944466998787
Kn_K15 L_L3 L_L7 0.9526865319912
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.220857216076
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9533654040911
Kn_K21 L_L4 L_L7 0.9941915135147
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0662083975706
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8457270955751
Kn_K26 L_L5 L_L10 0.8509877202988
Kn_K27 L_L6 L_L7 0.9588665854734
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.219134650438
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.066836984263
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1180754787145
Kn_K35 L_L8 L_L10 0.9884231169578
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_21 1 2 3 4 REF
C_C1 1 REF 0.0612021599515pf
C_C2 1 2 61.103314350873pf
C_C3 1 4 0.7203602253856pf
C_C4 2 REF 0.9224902110994pf
C_C5 2 3 0.2674787029333pf
C_C6 3 REF 0.5212626947189pf
C_C7 4 REF 0.5192578983637pf
R_R1 1 2 -226.5646877707
L_L1 1 5 0.5720019319468nh
R_RL1 5 2 -0.185137451838
L_L2 1 6 59.154966492089nh
R_RL2 6 3 -0.081113761225
L_L3 1 7 58.301680013149nh
R_RL3 7 4 -0.078747122788
L_L4 2 8 59.8435640855nh
R_RL4 8 3 -0.462821900667
L_L5 2 9 58.997568310413nh
R_RL5 9 4 -0.456989215244
L_L6 3 10 1.3000715776014nh
R_RL6 10 4 1.0120401384e-5
Kn_K1 L_L1 L_L2 -0.010022084053
Kn_K2 L_L1 L_L3 -0.010726406049
Kn_K3 L_L1 L_L4 -0.107730746793
Kn_K4 L_L1 L_L5 -0.109127914501
Kn_K5 L_L2 L_L3 0.9889575739744
Kn_K6 L_L2 L_L4 0.995209864066
Kn_K7 L_L2 L_L5 0.9840946193481
Kn_K8 L_L2 L_L6 -0.122774172495
Kn_K9 L_L3 L_L4 0.9843000114852
Kn_K10 L_L3 L_L5 0.9951410794014
Kn_K11 L_L3 L_L6 0.0256592830569
Kn_K12 L_L4 L_L5 0.9890854859808
Kn_K13 L_L4 L_L6 -0.121652487858
Kn_K14 L_L5 L_L6 0.0259237411128
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_22 1 2 3 4 REF
C_C1 1 REF 0.3195123954903pf
C_C2 1 2 25.646604473566pf
C_C3 1 3 0.0120200079105pf
C_C4 1 4 0.3300181166503pf
C_C5 2 REF 0.6741177464562pf
C_C6 2 3 0.1403215003988pf
C_C7 3 REF 0.5215372357513pf
C_C8 4 REF 0.5156625271667pf
L_L1 1 5 0.9117478259522nh
R_RL1 5 2 -0.0328115088
L_L2 3 6 1.3024209902611nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_23 1 2 3 4 REF
C_C1 1 REF 0.4116989851973pf
C_C2 1 2 13.62273251981pf
C_C3 1 3 0.0597628929941pf
C_C4 1 4 0.1966525118802pf
C_C5 2 REF 0.5959270531518pf
C_C6 2 3 0.0952713512293pf
C_C7 3 REF 0.5209585268215pf
C_C8 4 REF 0.5137455153026pf
L_L1 1 5 1.2790786580251nh
R_RL1 5 2 -2.273778045e-3
L_L2 3 6 1.300404898447nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_24 1 2 3 4 REF
C_C1 1 REF 0.4535517710179pf
C_C2 1 2 8.7017250600584pf
C_C3 1 3 0.0845211703526pf
C_C4 1 4 0.1415934273583pf
C_C5 2 REF 0.5703882447605pf
C_C6 2 3 0.074475529124pf
C_C7 2 4 0.0278873655872pf
C_C8 3 REF 0.5193365928886pf
C_C9 4 REF 0.5113991195866pf
L_L1 1 5 1.7419563656648nh
R_RL1 5 2 0.0024975898596
L_L2 3 6 1.2980446547672nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_25 1 2 3 4 REF
C_C1 1 REF 0.4771852459661pf
C_C2 1 2 6.7084089145874pf
C_C3 1 3 0.1024082370083pf
C_C4 1 4 0.1157099938345pf
C_C5 2 REF 0.5675193682843pf
C_C6 2 3 0.0614282778725pf
C_C7 2 4 0.0588791102188pf
C_C8 3 REF 0.517336114388pf
C_C9 4 REF 0.5088663019627pf
L_L1 1 5 1.8992370342993nh
R_RL1 5 2 -6.289146448e-4
L_L2 3 6 1.295032637087nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_26 1 2 3 4 REF
C_C1 1 REF 0.4876458430004pf
C_C2 1 2 6.2595965440639pf
C_C3 1 3 0.1142230456313pf
C_C4 1 4 0.1061171439611pf
C_C5 2 REF 0.5733680870597pf
C_C6 2 3 0.0534191114037pf
C_C7 2 4 0.0725025378547pf
C_C8 3 REF 0.5157521636006pf
C_C9 4 REF 0.506948151276pf
L_L1 1 5 1.9386959078688nh
R_RL1 5 2 6.4361752077e-5
L_L2 3 6 1.2937470503057nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param33_26

